US05187190
Diethyl azodicarboxylate (3.8 ml) was added dropwise to a stirred solution of 4-[(2-methyl-1,3-dioxolan-2-yl)methoxy]phenol (3.4 g), N-t-butoxycarbonylaminoethanol (5.2 g) and triphenylphosphine (6.3 g) in anhydrous tetrahydrofuran (100 ml), at ice-bath temperature, under argon. The reaction mixture was left for 64 hours at 25° C. and then the solvent was removed under reduced pressure. The residue was dissolved in ether (100 ml) and the ethereal solution washed with 2N aqueous sodium hydroxide (2×50 ml), water (2×50 ml) and saturated brine (50 ml). The aqueous washings were in turn extracted with ether (50 ml). The ethereal solutions were combined, dried, and the ether removed under reduced pressure. The residue was purified by chromatography using 11/2% tetrahydrofuran in dichloromethane as eluent. The appropriate fractions were combined and evaporated to yield 1-t-butoxycarbonylamino-2-[4-((2-methyl-1,3-dioxolan-2-yl)-methoxy)phenoxy]ethane as a light yellow solid (3.2 g) m.p. 80°-82° C. (from cyclohexane); microanalysis: found C, 61.3; H, 7.7; N, 3.8%; required for C18H27NO6 : C, 61.2; H, 7.6; N 4.0%.

reactant | Diethyl azodicarboxylate | 3.8 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-[(2-methyl-1,3-dioxolan-2-yl)methoxy]phenol | 3.4 g | CC1(OCCO1)COC1=CC=C(C=C1)O | C11H14O4
reactant | N-t-butoxycarbonylaminoethanol | 5.2 g | C(C)(C)(C)OC(=O)NC(C)O | C7H15NO3
reactant | triphenylphosphine | 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-t-butoxycarbonylamino-2-[4-((2-methyl-1,3-dioxolan-2-yl)-methoxy)phenoxy]ethane | 3.2 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)OCC1(OCCO1)C | C18H27NO6
